US04107307
2-o-Propoxyphenyl-4-imidazolecarboxaldehyde
A 44 gm. portion of 2-(o-propoxyphenyl)-4-imidazolemethanol is placed in a 2 liter round bottom flask together with 500 ml. of chloroform and 100 gm. of manganese dioxide. The mixture is stirred and refluxed for 51/2 hours. The reaction mixture is filtered while hot. The manganese dioxide is triturated with 500 ml. of hot chloroform and filtered. The two filtrates are combined and evaporated. The solid residue is recrystallized from 200 ml. of hot ethyl acetate and charcoal giving the desired product, m.p. 104°-105° C.

reactant | 2-(o-propoxyphenyl)-4-imidazolemethanol | C(CC)OC1=C(C=CC=C1)C=1NC=C(N1)CO | C13H16N2O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-o-Propoxyphenyl-4-imidazolecarboxaldehyde | C(CC)OC1=C(C=CC=C1)C=1NC=C(N1)C=O | C13H14N2O2
